US08957068B2
(S)-2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanehydrazide
To a solution of (S)-methyl 2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanoate (120 mg, 0.39 mmol in 5 ml of MeOH) was added 99% hydrazine hydrate, the reaction solution was stirred at room temperature overnight (24 hours), the solvent was removed to yield the desired product (99 mg) in 78% yield, and was used for next step without purification. LCMS m/z 309.1 (M+H)+ RT=1.25 min.

reactant | (S)-methyl 2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanoate | 0.39 mmol, 5 ml, 120 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@H](C(=O)OC)C | C14H20N4O4
reactant | hydrazine hydrate | O.NN
product | (S)-2-((4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)amino)propanehydrazide | 99 mg, 78% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@H](C(=O)NN)C | C13H20N6O3
